US07696229B2
H2SO4 (0.1 mL) was added to a solution of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carboxamide (130 mg, 0.41 mmol) in ethanol (4 mL) and the resulting solution was stirred at room temperature for 1 hour. Filtration and subsequent concentration afforded 20 mg (18.6%) of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carbonitrile as a white solid.

reactant | H2SO4 | 0.1 mL | OS(=O)(=O)O | H2O4S
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carboxamide | 0.41 mmol, 130 mg | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)N | C15H17N3O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole-5-carbonitrile | 20 mg, 18.6% | CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)C#N | C15H15N3
